US06376412B1
9-silafluorenebis[4-(3′,5′-di-t-butylphenyl)-2-methylindene
9,9-Dichloro-9-silafluorene (1.2 g, 9.2 mmol) was dissolved in 80 mL of THF. To this solution was slowly added lithium 4-(3′,5′-di-t-butylphenyl)-2-methylindene (3.0 g, 9.2 mmol) as a dry powder and the solution was stirred overnight. After this time, the solvent was removed in vacuo and the residue was taken up in diethyl ether. The solution was filtered through a frit to remove LiCl and the solvent was removed in vacuo and used as a crude product (4.1 g) for the next step.

reactant | 9,9-Dichloro-9-silafluorene | 9.2 mmol, 1.2 g | Cl[Si]1(C2=CC=CC=C2C=2C=CC=CC12)Cl | C12H8Cl2Si
reactant | lithium 4-(3′,5′-di-t-butylphenyl)-2-methylindene | 9.2 mmol, 3.0 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C1=C2C=C(CC2=CC=C1)C.[Li]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 4-(3′,5′-di-t-butylphenyl)-2-methylindene | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C1=C2C=C(CC2=CC=C1)C | C24H30
